US06395766B1
3-(4-Chlorophenyl)-6,6-dimethyl-1-(pyridin-2-yl)-4,5,6,7-tetrahydroindol-4-one
A solution of 3-bromo-6,6-dimethyl-1-(pyridin-2-yl)-4,5,6,7-tetrahydroindol-4-one (50 mg, 0.16 mmol) and tetrakis(triphenylphosphine)palladium (15 mg, 0.01 mmol) in ethylene glycol dimethyl ether (2 mL) at 45° C. was degassed with nitrogen for 30 min. A degassed solution of Cs2CO3 (104 mg, 0.16 mmol) in water (1 mL) was added followed by 4-chlorophenylboronic acid (25 mg, 0. 16 mmol). The solution was heated at 100° C. for 18 h then filtered through celite. The filtrate was partitioned between DCM and water. The organic phase was separated, dried (MgSO4) and evaporated. The residue was purified by column chromatography, eluting with isohexane: EtOAc (3:1) to give the title compound (6 mg, 11%) as a colourless solid. 1H NMR (360 MHz, d6-DMSO) δ 1.05 (6H,s), 2.37 (2H,s), 3.01 (2H,s), 7.38 (2H,d, J=8.5 Hz), 7.46-7.50 (1H,m), 7.56 (1H,s), 7.68-7.74 (3H,m), 8.05-8.09 (1H,m), 8.59-8.63 (1H,m). MS (ES+) 351/353 (M+1).

reactant | 3-bromo-6,6-dimethyl-1-(pyridin-2-yl)-4,5,6,7-tetrahydroindol-4-one | 0.16 mmol, 50 mg | BrC1=CN(C=2CC(CC(C12)=O)(C)C)C1=NC=CC=C1 | C15H15BrN2O
reactant | Cs2CO3 | 0.16 mmol, 104 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-chlorophenylboronic acid | 16 mmol, 25 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
solvent | ethylene glycol dimethyl ether | 2 mL | COCCOC | C4H10O2
solvent | water | 1 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.01 mmol, 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4-Chlorophenyl)-6,6-dimethyl-1-(pyridin-2-yl)-4,5,6,7-tetrahydroindol-4-one | 6 mg, 11% | ClC1=CC=C(C=C1)C1=CN(C=2CC(CC(C12)=O)(C)C)C1=NC=CC=C1 | C21H19ClN2O
